US04755466
One gram of microbial cells of Syncephalastrum racemosum IFO-4814, grown by the method described in Example 1, and one gram each of microbial cells of AJ-117128 (FERM P-7736, FERM BP-693) and AJ-6307 (FERM P-7892, FERM BP-694) grown by the method described in Example 2, were each suspended in 4 ml of deionized water. After cooling on ice, 750 mg of acrylamide and 45 mg of methylene-bisacrylamide were dissolved in each suspension, the oxygen was completely displaced by introducing nitrogen gas, 3.5 mg of ammonium persulfate and 8 μl of N,N'-dimethylaminopropionitrile were added, and the mixture was allowed to stand under ice cooling. After one hour, the cell-containing gel thus formed was collected by filtration through a 50-mesh metal gauze and washed with physiological saline. Two grams of the immobilized cells thus obtained were added to an aqueous solution containing 2.0 g/dl of cinnamic acid and 5.5 ml of 28% ammonia (pH controlled to 10.5 with hydrochloric acid), and the reaction was continued at 30° C. for 24 hours. The amounts of phenylalanine formed are listed in Table 3.

reactant | acrylamide | 750 mg | C(C=C)(=O)N | C3H5NO
reactant | methylene-bisacrylamide | 45 mg | C(C=CC(=O)N)C=CC(=O)N | C7H10N2O2
reactant | oxygen | O=O | O2
reactant | ammonium persulfate | 3.5 mg | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
reactant | cinnamic acid | C(C=CC1=CC=CC=C1)(=O)O | C9H8O2
reactant | ammonia | 5.5 ml | N | H3N
solvent | water | 4 ml | O | H2O
product | phenylalanine | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
